US06297256B1
A suspension of 1-(5-(4-fluorophenyl)thieno[3,2-b]pyridin-7-yl)piperidine-4-carboxamide (100 mg, 0.32 mmole) in phosphorus oxochloride (5 mL) is refluxed for about 30 minutes. After the excess phosphorus oxychloride is removed under vacuum, the residue is treated with ethyl acetate (5 mL), and ice-water (10 mL). The mixture is extracted with ethyl acetate (3×10 mL). The combined organic layers are washed with brine, dried over sodium fate, filtered, and concentrated. The residue is dissolved in toluene (5 mL) and then formic hydrazide (100 mg, 1.7 mmole) and formic acid (0.05 mL) are added. The reaction mixture is refluxed for about 16 hours. It is then cooled, diluted with ethyl acetate (15 mL), and washed with water (3×15 mL). The organic layer is dried over sodium sulfate, filtered, and concentrated. The residue is purified by preparative tlc to give 5-(4-fluorophenyl)-7-[4-(1H-1,2,4-triazol-3-yl)-1-piperidinyl]thieno[3,2-b]pyridine (7 mg, 6% yield) as a white solid. This material is dissolved in ethyl acetate (1 mL), saturated with HCl (2 mL), and then concentrated to afford 5-(4-Fluorophenyl)-7-[4-(4H-1,2,4-triazol-3-yl)piperidyl]thioheno[3,2-b]pyridine hydrochloride (compound 2) as greasy oil. Trituration with ether, filtration and drying in vacuo affords the desired product as a solid. m.p. >300° C. (dec).

reactant | 1-(5-(4-fluorophenyl)thieno[3,2-b]pyridin-7-yl)piperidine-4-carboxamide | 0.32 mmole, 100 mg | FC1=CC=C(C=C1)C1=CC(=C2C(=N1)C=CS2)N2CCC(CC2)C(=O)N | C19H18FN3OS
reactant | formic hydrazide | 1.7 mmole, 100 mg | C(=O)NN | CH4N2O
reactant | formic acid | 0.05 mL | C(=O)O | CH2O2
solvent | phosphorus oxochloride | 5 mL | O(Cl)Cl.[P]
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 5-(4-fluorophenyl)-7-[4-(1H-1,2,4-triazol-3-yl)-1-piperidinyl]thieno[3,2-b]pyridine | 7 mg, 6% yield | FC1=CC=C(C=C1)C1=CC(=C2C(=N1)C=CS2)N2CCC(CC2)C2=NNC=N2 | C20H18FN5S
